US05731309
4-(4-Acetamido-4-phenylpiperidino)-2-(3,4-dichlorophenyl)-N-methyl-N-[3,5-bis(trifluoromethyl)benzyl]butylamine
To a stirred solution of 4-(4-acetamido-4-phenylpiperidino)-2-(3,4-dichlorophenyl)-N-[3,5-bis(trifluoromethyl)benzyl]butylamine (0.30 g) in methanol (4 mL) was added aqueous formaldehyde (37% w/w, 0.027 mL). The mixture was cooled to 0° C. and acetic acid (0.038 mL) was added followed by a solution of sodium cyanoborohydride (43 mg) in methanol (1 mL). The reaction mixture was allowed to warm to room temperature overnight and was diluted with dichloromethane (5 mL), water (5 mL), and saturated sodium bicarbonate (mL). The phases were separated and the aqueous layer was extracted with dichloromethane (10 mL). The combined organic phases were washed (brine), dried, and evaporated, to give material which was purified by chromatography with dichloro-methane:methanol (30:1) as the eluent, to give the title compound as a hemihydrate (0.175 g); mp 72°-74° C.; NMR (d6 -DMSO-trifluoroacetic acid): 7.7 (m,5), 7.25 (m, 6), 3.52 (d,1, J=14.4), 3.25 (d,1, J=14.4), 3.0 (m,1), 2.7-2.45 (m,4), 2.50 (s,3), 2.35-1.95 (broad m,4), 1.85 (s,3), 1.95-1.5 (broad m,4); MS: m/z=674(M+1,100%); TLC: Rf=0.55 (10:1 dichloromethane:methanol). Analysis for C33H35Cl2F6N3O.0.50 H2O: Calculated: C, 57.98; H, 5.31; N, 6.15; Found: C, 57.95; H, 5.24; N, 6.52.

reactant | 4-(4-acetamido-4-phenylpiperidino)-2-(3,4-dichlorophenyl)-N-[3,5-bis(trifluoromethyl)benzyl]butylamine | 0.30 g | C(C)(=O)NC1(CCN(CC1)C(CC(CN)C1=CC(=C(C=C1)Cl)Cl)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=CC=C1 | C32H33Cl2F6N3O
reactant | formaldehyde | 0.027 mL | C=O | CH2O
reactant | acetic acid | 0.038 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 43 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
solvent | methanol | 1 mL | CO | CH4O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | water | 5 mL | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 4-(4-Acetamido-4-phenylpiperidino)-2-(3,4-dichlorophenyl)-N-methyl-N-[3,5-bis(trifluoromethyl)benzyl]butylamine | C(C)(=O)NC1(CCN(CC1)C(CC(CNC)C1=CC(=C(C=C1)Cl)Cl)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=CC=C1 | C33H35Cl2F6N3O
